US09388189B2
b) N-(3-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-methoxybenzenesulfonamide
N-(3-Bromo-5-hydroxyphenyl)-4-methoxybenzenesulfonamide (1.21 g, 3.38 mmol), bis(pinacolato)diboron (1.29 g, 5.08 mmol), potassium acetate (0.99 g, 10.12 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.28 g, 0.34 mmol) were suspended in dioxane (30 ml) and the mixture heated to 140° C. for 20 min under microwave conditions. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 0.33 g of the title compound as an oil. (19% yield). Purity: 80%.

reactant | N-(3-Bromo-5-hydroxyphenyl)-4-methoxybenzenesulfonamide | 3.38 mmol, 1.21 g | BrC=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12BrNO4S
reactant | bis(pinacolato)diboron | 5.08 mmol, 1.29 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.12 mmol, 0.99 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-methoxybenzenesulfonamide | 0.33 g, 19% yield | OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC | C19H24BNO6S
